US04442123
6-Chloro-6-deoxy-D-allose was reduced by the method described in Example 1 to give 6-chloro-6-deoxy-D-allitol as a colourless syrup, [α]D20 +5.3° (c=1.0, methanol); Rf 0.72 (t.l.c. silica gel; n-butanol:ethanol:water, 5:3:2).

reactant | 6-Chloro-6-deoxy-D-allose | ClC[C@H]([C@H]([C@H]([C@H](C=O)O)O)O)O | C6H11ClO5
solvent | methanol | CO | CH4O
product | 6-chloro-6-deoxy-D-allitol | ClC[C@H]([C@H]([C@H]([C@H](CO)O)O)O)O | C6H13ClO5
